US08492371B2
5-[1-(trifluoromethyl)cyclopropyl]-1,3,4-thiadiazol-2-amine
A mixture of 1-(trifluoromethyl)cyclopropanecarboxylic acid (1 g, 6.5 mmol) and thiosemicarbazide (0.6 g, 6.5 mmol) in dioxane (8 mL) was heated to 90° C. To the hot reaction mixture was added phosphorus oxychloride (0.6 mL, 6.5 mmol). The reaction mixture was stirred at 90° C. for 16 h. The reaction mixture was then cooled, diluted with ethyl acetate (10 mL) and quenched with saturated NaHCO3 (10 mL). The aqueous layer was extracted with ethyl acetate (2×10 mL). The combined organic extracts were washed with water (15 mL), dried (Na2SO4), filtered and concentrated. The residue was triturated in hot hexanes to afford 0.5 g (37%) of the title compound. LC/MS (ESI+) m/z 210 (M+H)+.

reactant | 1-(trifluoromethyl)cyclopropanecarboxylic acid | 6.5 mmol, 1 g | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | thiosemicarbazide | 6.5 mmol, 0.6 g | NNC(=S)N | CH5N3S
reactant | phosphorus oxychloride | 6.5 mmol, 0.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 5-[1-(trifluoromethyl)cyclopropyl]-1,3,4-thiadiazol-2-amine | 0.5 g, 37% | FC(C1(CC1)C1=NN=C(S1)N)(F)F | C6H6F3N3S
